US06503949B1
Step D: Resin Bound benzo[b]thiophene-2-carboxylic Acid (4-tert-butylcyclohexyl)-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]amide
To the above resin bound 4-[(4-tert-butylcyclohexylamino)methyl]-N-(2H-tetrazol-5-yl)-benzamide was added a solution of benzo[b]thiophene-2-carboxylic acid (400 μmol) in a mixture of NMP, DCP and diisopropylethylamine (4.5:4.5:1, 1 mL) followed by a solution of PyBrOP (400 μmol) in DCP (500 μL). The mixture was allowed to react 3 hours at 50° C. The resin was cooled to 25° C. while washed with NMP (4×1 mL), and DCM (10×1 mL).

reactant | 4-[(4-tert-butylcyclohexylamino)methyl]-N-(2H-tetrazol-5-yl)-benzamide | C(C)(C)(C)C1CCC(CC1)NCC1=CC=C(C(=O)NC=2N=NNN2)C=C1 | C19H28N6O
reactant | benzo[b]thiophene-2-carboxylic acid | 400 μmol | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBrOP | 400 μmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | NMP | CN1CCCC1=O | C5H9NO
product | benzo[b]thiophene-2-carboxylic Acid (4-tert-butylcyclohexyl)-[4-(2H-tetrazol-5-ylcarbamoyl)benzyl]amide | C(C)(C)(C)C1CCC(CC1)N(C(=O)C1=CC2=C(S1)C=CC=C2)CC2=CC=C(C=C2)C(NC=2N=NNN2)=O | C28H32N6O2S
